US08283353B2
4-{4-[(2-hydroxy-2-methylpropoxy)imino]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one (0.2 g), 1-(aminooxy)-2-methylpropan-2-ol (0.4 g) and pyridine (5 mL) was stirred at 100° C. for 16 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was adjusted to pH 4 with 1 N hydrochloric acid. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as colorless crystals (0.15 g, 63%).

reactant | 4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.2 g | O=C1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C29H28N6O4
reactant | 1-(aminooxy)-2-methylpropan-2-ol | 0.4 g | NOCC(C)(O)C | C4H11NO2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{4-[(2-hydroxy-2-methylpropoxy)imino]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.15 g, 63% | OC(CON=C1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2)(C)C | C33H37N7O5
